US09062002B2
Synthesis of (E)-ethyl 3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylate (49a)
A solution of E (from intermediate-1) (15 g, 66.07 mmol), ethyl acrylate (33.0 g, 33.0 mmol), Pd(OAc)2 (1.48 g, 6.6 mmol), P(o-tolyl)3 (4 g, 13.15 mmol), and DIPEA (22.9 ml, 131.78 mmol) in dimethyl formamide/propionitrile (60 ml/250 ml) was degassed with nitrogen for 15 minutes and then heated to 100-110° C. for 16 h. The progress of the reaction was monitored by TLC. After 16 h, the mixture was cooled to 20-35° C., filtered through celite and concentrated. The crude compound was purified by column chromatography using a mixture of 50% ethyl acetate/hexane as an eluent to get the desired compound as an off-white solid (7.7 g, 43.2%); 1H NMR (400 MHz, DMSO-d6) δ 10.70 (s, 1H), 8.39 (d, J=2.0 Hz, 1H), 8.06 (s, 1H), 7.61 (d, J=16.1 Hz, 1H), 6.61 (d, J=16.1 Hz, 1H), 4.19-4.16 (m, 2H), 2.92-2.88 (m, 2H), 2.54-2.53 (m, 2H), 1.26 (t, J=7.1 Hz, 3H); MS (ES) m/e 247.0 (M+H)+.

reactant | ethyl acrylate | 33.0 mmol, 33.0 g | C(C=C)(=O)OCC | C5H8O2
reactant | P(o-tolyl)3 | 13.15 mmol, 4 g | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | DIPEA | 131.78 mmol, 22.9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethyl formamide propionitrile | 60 ml | CN(C=O)C.C(CC)#N
catalyst | Pd(OAc)2 | 6.6 mmol, 1.48 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-ethyl 3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylate | 7.7 g, 43.2% | O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)OCC | C13H14N2O3
